US05543414
Preparation of N-Benzyloxycarbonyl-1-amino-cyclohexanecarboxylic acid
In a similar manner, using 1-amino-cyclobutanecarboxylic acid, 1-amino-cyclopentanecarboxylic acid, 1-amino-cycloheptane-carboxylic acid, 1-amino-cyclooctanecarboxylic acid, 1-amino-cyclononanecarboxylic acid, 1-amino-cyclodecanecarboxylic acid, 2-amino-2-methylpropionic acid, 2-amino-2-ethylbutyric acid, 2-amino-2-n-propylvaleric acid, 2-amino-2-isopropyl-3-methylbutyric acid, 2-amino-2-isobutyl-4-methylvaleric acid, 2-amino-2-n-butylhexanoic acid, 2-amino-2,2-biscyclopropylacetic acid, 2-amino-2,2-biscyclobutylacetic acid or 2-amino-2,2-bisbenzylacetic acid instead of 1-amino-cyclohexanecarboxylic acid, the following starting materials are prepared:

reactant | 1-amino-cyclobutanecarboxylic acid | NC1(CCC1)C(=O)O | C5H9NO2
reactant | 1-amino-cyclopentanecarboxylic acid | NC1(CCCC1)C(=O)O | C6H11NO2
reactant | 1-amino-cycloheptane-carboxylic acid | NC1(CCCCCC1)C(=O)O | C8H15NO2
reactant | 1-amino-cyclooctanecarboxylic acid | NC1(CCCCCCC1)C(=O)O | C9H17NO2
reactant | 1-amino-cyclononanecarboxylic acid | NC1(CCCCCCCC1)C(=O)O | C10H19NO2
reactant | 1-amino-cyclodecanecarboxylic acid | NC1(CCCCCCCCC1)C(=O)O | C11H21NO2
reactant | 2-amino-2-methylpropionic acid | NC(C(=O)O)(C)C | C4H9NO2
reactant | 2-amino-2-ethylbutyric acid | NC(C(=O)O)(CC)CC | C6H13NO2
reactant | 2-amino-2-n-propylvaleric acid | NC(C(=O)O)(CCC)CCC | C8H17NO2
reactant | 2-amino-2-isopropyl-3-methylbutyric acid | NC(C(=O)O)(C(C)C)C(C)C | C8H17NO2
reactant | 2-amino-2-isobutyl-4-methylvaleric acid | NC(C(=O)O)(CC(C)C)CC(C)C | C10H21NO2
reactant | 2-amino-2-n-butylhexanoic acid | NC(C(=O)O)(CCCC)CCCC | C10H21NO2
reactant | 2-amino-2,2-biscyclopropylacetic acid | NC(C(=O)O)(C1CC1)C1CC1 | C8H13NO2
reactant | 2-amino-2,2-biscyclobutylacetic acid | NC(C(=O)O)(C1CCC1)C1CCC1 | C10H17NO2
reactant | 2-amino-2,2-bisbenzylacetic acid | NC(C(=O)O)(CC1=CC=CC=C1)CC1=CC=CC=C1 | C16H17NO2
product | N-Benzyloxycarbonyl-1-amino-cyclohexanecarboxylic acid | C(C1=CC=CC=C1)OC(=O)NC1(CCCCC1)C(=O)O | C15H19NO4
